US20010047006A1
A suspension of 10% palladium on carbon (0.045 g) and 2-hydroxy-4-methyl-3-nitropyridine (0.600 g, 3.89 mmol, 1 equiv) in EtOH (20 mL) was subjected to one atmosphere of hydrogen for 16 hours. After purging the reaction vessel with argon, the mixture was filtered through Whatman #3 paper and the filtrate was evaporated to give 2-hydroxy-4-methyl-3-aminopyridine which was used without further purification. This crude material was stirred in THF (18 mL) at 23° C. Benzyl chloroformate (0.611 mL, 4.28 mmol, 1.1 equiv) and Na2CO3 (0.907 g, 8.56 mmol, 2.2 equiv) were added and the reaction mixture was stirred for 60 h, but TLC showed the reaction to be only 25% complete. The reaction mixture was heated to reflux for 24 h. More benzyl chloroformate (0.611 mL, 4.28 mmol, 1.1 equiv) and Na2CO3 (0.454 g, 4.28 mmol, 1.1 equiv) were added. The reaction mixture was heated to reflux for 24 h more, allowed to cool, diluted with EtOAc (200 mL), washed with half-saturated brine (2×40 mL), dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography (gradient elution, 3→5% CH3OH in CH2Cl2) to provide the title intermediate (0.363 g, 35%) as a white solid: 1H NMR (DMSO-d6) δ 2.02 (s, 3H), 3.31-3.35 (m, 2H), 5.06 (s, 2H), 6.83 (d, 1H, J=6.7), 7.17 (d, 1H, J=6.7), 7.28-7.39 (m, 5H); Anal. C14H14N2O3: C, H, N.

reactant | 2-hydroxy-4-methyl-3-nitropyridine | 3.89 mmol, 0.600 g, 1 equiv | OC1=NC=CC(=C1[N+](=O)[O-])C | C6H6N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.045 g | [Pd] | Pd
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-hydroxy-4-methyl-3-aminopyridine | OC1=NC=CC(=C1N)C | C6H8N2O
